US06653471B2
To a mixture of 2.0 g (11 mmol) of 2-dimethoxymethyl-pyridin-3-carbaldehyde and 1.6 mL (12 mmol) of N-benzyl methyl amine in 30 mL of dichloroethane is added 4.7 g (22 mmol) of sodium triacetoxyborohydride. The reaction is stirred for 18 hours at room temperature. To this mixture is added 20 mL of water. After 1 hour of stirring the pH of the reaction mixture is adjusted to 8.0 with 1N NaOH. The organic layer is separated from the water layer, dried and evaporated to yield 1.9 grams of benzyl-(2-dimethoxymethyl-pyridin-3-ylmethyl)-methyl-amine. 1H NMR (CDCl3) δ8.5 (d, 1H), 7.9 (d, 1H), 7.3 (m, 6H), 5.6 (s, 1H), 3.7 (s, 2H), 3.5 (s, 2H), 3.3 (s, 6H) 2.1 (s, 3H). Mass spectrum: m/e=287.8 (p+1). TLC (1/1 ethyl acetate/hexanes) Rf=0.2.

reactant | 2-dimethoxymethyl-pyridin-3-carbaldehyde | 11 mmol, 2.0 g | COC(C1=NC=CC=C1C=O)OC | C9H11NO3
reactant | N-benzyl methyl amine | 12 mmol, 1.6 mL | C(C1=CC=CC=C1)NC | C8H11N
reactant | sodium triacetoxyborohydride | 22 mmol, 4.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dichloroethane | 30 mL | ClC(C)Cl | C2H4Cl2
solvent | water | 20 mL | O | H2O
product | benzyl-(2-dimethoxymethyl-pyridin-3-ylmethyl)-methyl-amine | 1.9 grams | C(C1=CC=CC=C1)N(C)CC=1C(=NC=CC1)C(OC)OC | C17H22N2O2
